US08030499B2
Step 181-1: Synthesis of 1-[bromo (difluoro) methoxy]-2,3-dimethoxy benzene
To a solution of 5.0 g of 2,3-dimethoxy phenol in 1,3-dimethyl-2-imidazolidinone (65 ml) was added 7.28 g of potassium tert-butoxide, and was added dropwise a solution of 41.5 g of dibromo difluoromethane in 1,3-dimethyl-2-imidazolidinone (20 ml) over 30 minutes. The solution was stirred at 55° C. for 3 hours, and then water was added and the resulting mixture was extracted with Et2O. The organic layer was sequentially washed with 1 mol/L hydrochloric acid, water, and saturated brine, dried over MgSO4, then, the drying agent was separated by filtration and the solvent was evaporated under reduced pressure. The obtained residue was purified by column chromatography (silicagel 60; mobile phase: EtOAc/n-hexane=1/9 to 1/4; v/v) to obtain 2.21 g of the title compound (colorless oil).

reactant | 2,3-dimethoxy phenol | 5.0 g | COC1=C(C=CC=C1OC)O | C8H10O3
reactant | potassium tert-butoxide | 7.28 g | CC(C)([O-])C.[K+]
reactant | dibromo difluoromethane | 41.5 g | BrC(F)(F)Br | CBr2F2
reactant | water | O | H2O
solvent | 1,3-dimethyl-2-imidazolidinone | 65 ml | CN1C(N(CC1)C)=O | C5H10N2O
solvent | 1,3-dimethyl-2-imidazolidinone | 20 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 1-[bromo (difluoro) methoxy]-2,3-dimethoxy benzene | 2.21 g | BrC(OC1=C(C(=CC=C1)OC)OC)(F)F | C9H9BrF2O3
